US06391874B1
(4-Benzenesulphonyl-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 4-benzenesulphonylaniline and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.63(1H,bs), 9.42(1H,s), 8.95(1H,s), 8.56(1H,d), 8.10(6H,m), 7.70(4H,m), 2.65(3H,s); m/z (M+1+) 444.

reactant | 4-benzenesulphonylaniline | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C12H11NO2S
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
product | (4-Benzenesulphonyl-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | InChI=1S/C23H17N5O3S.ClH/c1-15-27-28-23(31-15)16-7-12-21-20(13-16)22(25-14-24-21)26-17-8-10-19(11-9-17)32(29,30)18-5-3-2-4-6-18;/h2-14H,1H3,(H,24,25,26);1H
